US08222247B2
2-Chloro-4-(5-((1R,2R)-1-(3-fluorophenyl)-2-methyl-3-oxo-3-(1,3,4-thiadiazol-2-ylamino)propyl)-2-thienyl)-N,N-dimethylbenzamide
In a similar manner to Example 43, the Suzuki coupling reaction of the title compound of Example 97, (2R,3R)-3-(5-bromothiophen-2-yl)-3-(3-fluorophenyl)-2-methyl-N-(1,3,4-thiadiazol-2-yl)propanamide (240 mg, 0.563 mmol), and 3-chloro-4-(dimethyl-carbamoyl)phenylboronic acid (256 mg, 1.126 mmol) afforded the title compound of Example 110 (147 mg, 0.278 mmol, 49.4% yield). 1H NMR (400 MHz, MeOD) δ ppm 8.96 (1H, s) 7.71 (1H, d, J=1.51 Hz) 7.61 (1H, dd, J=7.93, 1.64 Hz) 7.39 (1H, d, J=3.78 Hz) 7.33 (1H, d, J=8.06 Hz) 7.19-7.28 (2H, m) 7.15 (1H, dd, J=10.07, 2.01 Hz) 7.11 (1H, d, J=3.78 Hz) 6.83-6.89 (1H, m) 4.51 (1H, d, J=1.33 Hz) 3.48-3.57 (1H, m) 3.11 (3H, s) 2.91 (3H, s) 1.32 (3H, d, J=6.55 Hz). LC/MS (m/z) 529.11 (M+H)+]; HPLC Rt: 3.448 min.

reactant | (2R,3R)-3-(5-bromothiophen-2-yl)-3-(3-fluorophenyl)-2-methyl-N-(1,3,4-thiadiazol-2-yl)propanamide | 0.563 mmol, 240 mg | BrC1=CC=C(S1)[C@H]([C@H](C(=O)NC=1SC=NN1)C)C1=CC(=CC=C1)F | C16H13BrFN3OS2
reactant | 3-chloro-4-(dimethyl-carbamoyl)phenylboronic acid | 1.126 mmol, 256 mg | ClC=1C=C(C=CC1C(N(C)C)=O)B(O)O | C9H11BClNO3
product | 2-Chloro-4-(5-((1R,2R)-1-(3-fluorophenyl)-2-methyl-3-oxo-3-(1,3,4-thiadiazol-2-ylamino)propyl)-2-thienyl)-N,N-dimethylbenzamide | ClC1=C(C(=O)N(C)C)C=CC(=C1)C=1SC(=CC1)[C@H]([C@H](C(NC=1SC=NN1)=O)C)C1=CC(=CC=C1)F | C25H22ClFN4O2S2
